US04294835
3.2 g of N-(1-iso-propylthio-2,2,2-trichloroethyl)-2-acetoxybenzamide, 30 ml of ethanol and 0.5 ml of 35% hydrochloric acid were mixed together and the reaction was effected while stirring under reflux for two hours. The solvent was distilled off, and the contents were washed with water and dried to obtain 2.7 g of N-(1-iso-propylthio-2,2,2-trichloroethyl)-2-hydroxybenzamide as white crystals.

reactant | N-(1-iso-propylthio-2,2,2-trichloroethyl)-2-acetoxybenzamide | 3.2 g | C(C)(C)SC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)OC(C)=O)=O | C14H16Cl3NO3S
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-(1-iso-propylthio-2,2,2-trichloroethyl)-2-hydroxybenzamide | 2.7 g | C(C)(C)SC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)O)=O | C12H14Cl3NO2S
